US07129232B2
To a suspension of tert-butyl 2-aminoethylcarbamate (288 mg) and 3-ethoxy-4-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-3-cyclobutene-1,2-dione (718 mg) in ethanol (20 ml) was added triethylamine (0.209 ml), and the mixture was stirred under reflux for 4 hours. To the reaction mixture were added diethyl ether and hexane. The crystalline precipitate was collected by filtration and dried in vacuo to give tert-butyl 2-[(2-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-3,4-dioxocyclobut-1-en-1-yl)amino]ethylcarbamate (830 mg) as a solid.

reactant | tert-butyl 2-aminoethylcarbamate | 288 mg | NCCNC(OC(C)(C)C)=O | C7H16N2O2
reactant | 3-ethoxy-4-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-3-cyclobutene-1,2-dione | 718 mg | C(C)OC=1C(C(C1NC=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)=O)=O | C29H26N4O3
reactant | triethylamine | 0.209 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | hexane | CCCCCC | C6H14
product | tert-butyl 2-[(2-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-3,4-dioxocyclobut-1-en-1-yl)amino]ethylcarbamate | 830 mg | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC1=C(C(C1=O)=O)NCCNC(OC(C)(C)C)=O | C34H36N6O4
